US07449490B2
Part F: 1-Amino-5-methyl-2-thia-cyclopenta[a]inden-8-one [Formula (I): R3=CH3; R1=R2=R4=R5=R6=H; R9+R10=O]
To a mixture of 2-(5-methyl-8-oxo-8H-2-thia-cyclopenta[a]inden-1-yl)-isoindole-1,3-dione and 2-(7-methyl-8-oxo-8H-2-thia-cyclopenta[a]inden-1-yl)-isoindole-1,3-dione (0.45 mmol, Example & 3, Part E) in absolute ethanol (5 mL) was added hydrazine hydrate (0.5 mmol). The suspension was heated to reflux for one hour, cooled to room temperature, concentrated in vacuo, and the residue dissolved in methylene chloride. The solution was chilled to 5° C. for one hour, during which time the phthaloyl hydrazide precipitated. The precipitate was removed by filtration, the filtrate concentrated in vacuo, and the residue purified by column chromatography on silica gel, eluting with a 4:1 mixture of petroleum ether:ethyl acetate. Fractions containing the individual products were pooled, evaporated, and each product was isolated after recrystallization from petroleum ether.

reactant | 2-(5-methyl-8-oxo-8H-2-thia-cyclopenta[a]inden-1-yl)-isoindole-1,3-dione | CC=1C=CC=2C(C=3C(C2C1)=CSC3N3C(C1=CC=CC=C1C3=O)=O)=O | C20H11NO3S
reactant | 2-(7-methyl-8-oxo-8H-2-thia-cyclopenta[a]inden-1-yl)-isoindole-1,3-dione | 0.45 mmol | CC=1C=2C(C=3C(C2C=CC1)=CSC3N3C(C1=CC=CC=C1C3=O)=O)=O | C20H11NO3S
reactant | hydrazine hydrate | 0.5 mmol | O.NN
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 1-Amino-5-methyl-2-thia-cyclopenta[a]inden-8-one | NC=1SC=C2C1C(C=1C=CC(=CC21)C)=O | C12H9NOS
